US07579355B2
1-(1-{4-[5-(5-amino-1,3,4-thiadiazol-2-yl)-3-phenylpyridin-2-yl]benzyl}piperidin-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (4A-5)
A solution of 6-(4-{[4-(4-amino-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidin-1-yl]methyl}phenyl)-5-phenylnicotinonitrile (4A-4; 0.035 g, 0.072 mmol) and thiosemicarbazide (0.010 g, 0.108 mmol) in TFA (2 mL) was heated to 60° C. for 16 hr. The reaction was then cooled, poured onto ice, and basified with saturated aqueous sodium bicarbonate. The resulting precipitate was filtered, taken up in DMF and purified by reverse phase HPLC (5% CH3CN: 95% H2O+0.1% TFA to 95% CH3—CN: 5% H2O+0.1% TFA). 1H-NMR (500 MHz, d6 DMSO) δ 9.72 (bs, 1H), 9.07 (d, J=2.19, 1H), 8.93 (bs, 1H), 8.42 (bs, 1H), 8.36 (s, 1H), 8.29 (s, 1H), 8.10 (d, J=1.96, 1H), 7.65 (bs, 2H), 7.22-7.49 (m, 9H), 4.93-5.03 (m, 1H), 4.34 (s, 2H), 3.49 (d, J=12.21, 2H), 3.19-3.35 (m, 2H), 2.32-2.56 (m, 2H), 2.15 (d, J=11.96, 2H). HRMS m/z (M+H) Calcd: 561.2292, found: 561.2256.

reactant | 6-(4-{[4-(4-amino-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidin-1-yl]methyl}phenyl)-5-phenylnicotinonitrile | 0.072 mmol, 0.035 g | NC1=C2C(=NC=N1)N(N=C2)C2CCN(CC2)CC2=CC=C(C=C2)C2=NC=C(C#N)C=C2C2=CC=CC=C2 | C29H26N8
reactant | thiosemicarbazide | 0.108 mmol, 0.010 g | NNC(=S)N | CH5N3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(1-{4-[5-(5-amino-1,3,4-thiadiazol-2-yl)-3-phenylpyridin-2-yl]benzyl}piperidin-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | NC1=NN=C(S1)C=1C=C(C(=NC1)C1=CC=C(CN2CCC(CC2)N2N=CC=3C2=NC=NC3N)C=C1)C1=CC=CC=C1 | C30H28N10S
